US04201783
15 g (0.0958 mole) of 2-chloro-6-hydroxy-benzaldehyde, 16.7 g (0.105 mole) ethyl malonate, 40 mL ethanol, 0.6 mL piperidine and 0.1 mL acetic acid are refluxed for 5 hours. After cooling the resultant product is dried. After drying, 14 g of ethyl 5-chlorocoumarin-3-carboxylate are obtained. (Yield=58%). Melting pointG =142°-144° C.

reactant | 2-chloro-6-hydroxy-benzaldehyde | 0.0958 mole, 15 g | ClC1=C(C=O)C(=CC=C1)O | C7H5ClO2
reactant | ethyl malonate | 0.105 mole, 16.7 g | C(CC(=O)[O-])(=O)OCC
reactant | ethanol | 40 mL | C(C)O | C2H6O
reactant | piperidine | 0.6 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | ethyl 5-chlorocoumarin-3-carboxylate | 14 g, Yield=58% | ClC1=C2C=C(C(OC2=CC=C1)=O)C(=O)OCC | C12H9ClO4
